US08048902B2
Step 1: [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 7, Step 1 using methyl 2-(3-bromophenyl)acetate and bis(pinacolato)diboron.

reactant | methyl 2-(3-bromophenyl)acetate | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H21BO4
